US07652057B2
Zinc metal (0.558 g, 10 micron dust, 8.5 mmol) was stirred in THF (2.5 ml) and methane sulphonic acid (0.04 mmol) was added and refluxed at 76° C. for 10 minutes. To this was added 3,3-difluoro-cyclobutanecarbonitrile (500 mg, 4.3 mmol, prepared according to Elend et al. Synth Comm, 2005, 35, 657) and the reaction mixture was heated for a further 10 minutes. Ethyl bromoacetate (0.751 ml, 6.8 mmol) dissolved in THF (0.5 mL) was then injected over a 2 hour period with the aid of a syringe pump and after the addition the mixture was stirred for a further 30 minutes. Aqueous HCl (3 ml of 3 M solution) was added drop-wise at 0° C. and the reaction mixture was then stirred for 17 hours between 0 and 20° C. The reaction mixture was analyzed by MS and TLC which showed the formation of the product and the consumption of the starting material and the reaction was worked up with (2×20 ml) water and (2×20 ml) ethyl acetate, the organic portion was then dried (Na2SO4) and reduced in vacuo. The product was isolated and purified using flash chromatography (AcOEt 7:93 heptane) and 3-(3,3-difluoro-cyclobutyl)-3-oxo-propionic acid ethyl ester (599 mg, 68% yield) was obtained as a colourless liquid. MS (ESI+): 207.1 ([M+H]+).

reactant | 3,3-difluoro-cyclobutanecarbonitrile | 4.3 mmol, 500 mg | FC1(CC(C1)C#N)F | C5H5F2N
reactant | Ethyl bromoacetate | 6.8 mmol, 0.751 ml | BrCC(=O)OCC | C4H7BrO2
reactant | HCl | 3 M, 3 ml | Cl | ClH
reactant | THF | 2.5 ml | C1CCOC1 | C4H8O
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
catalyst | Zinc | 8.5 mmol, 0.558 g | [Zn] | Zn
catalyst | methane sulphonic acid | 0.04 mmol | CS(=O)(=O)O | CH4O3S
product | 3-(3,3-difluoro-cyclobutyl)-3-oxo-propionic acid ethyl ester | 599 mg, 68% yield | C(C)OC(CC(=O)C1CC(C1)(F)F)=O | C9H12F2O3
